US06586445B1
(3R)-1,1-Dibutyl-3-(4,5-dimethyl-1,3-oxazol-2-yl)-2,3,4,9-tetrahydro-1H-β-carboline Hydrochloride
To a solution of (1R)-1-(4,5-dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)-1-ethanamine hydrochloride (1.2 g, 3.6 mmol) in isopropanol (20 ml) was added 5-nonanone (3.1 ml, 20 mmol) and the mixture was refluxed for about 24 hours. The solvent was evaporated under reduced pressure. To the residue was added water (20 ml) followed by NaHCO3 (10%) solution until neutral pH, followed by ethyl acetate (3×15 ml). After decantation and extraction the combined organic extracts were washed with water (20 ml) and dried over MgSO4. The solvent was evaporated under reduced pressure to afford an oil which was purified by column chromatography on silica gel using ethyl acetate/heptane 7:3 as eluent. The resulting oil was dissolved in ethyl acetate (15 ml) and a solution of HCl in ethyl acetate (1N) was slowly added at about 20° C. to give a precipitate. The suspension was stirred a few minutes and the precipitate collected by filtration, washed with diethyl ether, and dried to afford 0.14 g the desired product as the hydrochloride salt. Melting point: 128-134° C.

reactant | (1R)-1-(4,5-dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)-1-ethanamine hydrochloride | 3.6 mmol, 1.2 g | Cl.CC=1N=C(OC1C)[C@@H](CC1=CNC2=CC=CC=C12)N
reactant | 5-nonanone | 20 mmol, 3.1 ml | CCCCC(CCCC)=O | C9H18O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | (3R)-1,1-Dibutyl-3-(4,5-dimethyl-1,3-oxazol-2-yl)-2,3,4,9-tetrahydro-1H-β-carboline Hydrochloride | 0.14 g | Cl.C(CCC)C1(N[C@H](CC=2C3=CC=CC=C3NC12)C=1OC(=C(N1)C)C)CCCC | InChI=1S/C24H33N3O.ClH/c1-5-7-13-24(14-8-6-2)22-19(18-11-9-10-12-20(18)26-22)15-21(27-24)23-25-16(3)17(4)28-23;/h9-12,21,26-27H,5-8,13-15H2,1-4H3;1H/t21-;/m1./s1
